US08076491B2
3-(tert-butyldimethylsilyloxy)-4-methoxybenzaldehyde
Prepared as in Example 12-1c from 3-hydroxy-4-methoxybenzaldehyde and tert-butylchlorodimethylsilane. Yield 100%, yellowish liquid. MS 267 (MH+).

reactant | 3-hydroxy-4-methoxybenzaldehyde | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | tert-butylchlorodimethylsilane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 3-(tert-butyldimethylsilyloxy)-4-methoxybenzaldehyde | Yield 100% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=CC1OC | C14H22O3Si
